US07335689B2
A solution of 2,2,13,13-tetramethyl-1,14-bis(tetrahydropyran-2-yloxy)tetradecane-6,9-diol (5.07 g, 0.01 mol) in methanol (100 mL) was treated with dilute aqueous sulfuric acid (5 mL of concentrated sulfuric acid in 15 mL of water), and stirred at room temperature overnight. The methanol was removed under reduced pressure and the residue was extracted with ethyl acetate (100 mL). The aqueous phase was saturated with solid sodium chloride and extracted again with ethyl acetate (75 mL). The combined organic extracts were washed with a saturated sodium chloride solution (50 mL) and dried over magnesium sulfate. The solid obtained after solvent removal was washed with diethyl ether (10 mL) to give 2,2,13,13-tetramethyltetradecan-1,6,9,14-tetraol (1.85 g, 58%) as a white powder. M.p.: 96-97° C. 1H NMR (300 MHz, DMSO-d6/TMS): δ (ppm): 4.42 (pseudo-t, 2H, J=5.0 Hz), 4.28 (pseudo-t, 2H, J=5.0 Hz), 3.37-3.34 (m, 2H), 3.06 (d, 4H, J=5.0 Hz), 1.47-1.08 (m, 16H), 0.77 (s, 12H). 13C NMR (75 MHz, DMSO-d6/TMS): δ (ppm): 70.1, 69.9, 38.8, 38.4, 34.9, 33.7, 24.2, 19.7. HRMS (LSIMS, nba): Calcd. for C18H39O4 (MH+): 319.2843, found: 319.2853.

reactant | 2,2,13,13-tetramethyl-1,14-bis(tetrahydropyran-2-yloxy)tetradecane-6,9-diol | 0.01 mol, 5.07 g | CC(COC1OCCCC1)(CCCC(CCC(CCCC(COC1OCCCC1)(C)C)O)O)C | C28H54O6
reactant | sulfuric acid | 5 mL | S(O)(O)(=O)=O | H2O4S
solvent | methanol | 100 mL | CO | CH4O
product | 2,2,13,13-tetramethyltetradecan-1,6,9,14-tetraol | 1.85 g, 58% | CC(CO)(CCCC(CCC(CCCC(CO)(C)C)O)O)C | C18H38O4
